US04304788
Sodium hydride (1 g., 50% w/w suspension in mineral oil) was added gradually to a stirred solution of 1-[4-(4-chlorophenyl)phenyl]propanol (4.9 g.) in dry dimethylformamide (20 ml.), keeping the temperature below 40° C. After 2 hours stirring ethyl bromoacetate (2.3 ml.) was then added, keeping the temperature below 30° C. After stirring for 16 hours at room temperature, the mixture was poured into water (150 ml.), and the subsequent mixture was extracted with ether. The combined extracts were washed with water, dried (MgSO4) and evaporated to give ethyl 2-{1-[4-(4-chlorophenyl)-phenyl]propoxy}acetate as an oil (5 g.).

reactant | Sodium hydride | 1 g | [H-].[Na+]
reactant | 1-[4-(4-chlorophenyl)phenyl]propanol | 4.9 g | ClC1=CC=C(C=C1)C1=CC=C(C=C1)C(CC)O | C15H15ClO
reactant | ethyl bromoacetate | 2.3 ml | BrCC(=O)OCC | C4H7BrO2
reactant | water | 150 ml | O | H2O
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | ethyl 2-{1-[4-(4-chlorophenyl)-phenyl]propoxy}acetate | ClC1=CC=C(C=C1)C1=CC=C(C=C1)C(CC)OCC(=O)OCC | C19H21ClO3
